* ==========================================================================
* @part: CMOS 555
* @family: timers
* @source: ngspice
* @url: https://ngspice.sourceforge.io/modelparams.html
* @retrieved: 2026-09-24
* @licence: none stated
* @added-by: nav
* ==========================================================================
* CMOS 555
* How to obtain this subcircuit?
* Copy (or expand) KiCad project CMOS555_2.7z into a new directory
* Eeschema, edit circuit: remove all external devices 
* Remove all 0 (ground) pins, connect and label the wires with GND0
* Export the netlist
* Add the .subckt ... .ends lines, add all nets to be exported
* Sort the nets according to the numbering of the 555 footprint

*** CMOS model cards **************
* use default model parameters BSIM3

.model N1 NMOS level=8 version=3.3.0
.model P1 PMOS level=8 version=3.3.0

*** CMOS devices ******************

.subckt NCH D G S B W=1 L=1 M=1
MN1 D G S B N1 W={W} L={L} M={M} AS={3*L*W} AD={3*L*W} PS={6*L+W} AS={6*L+W}
.ends

.subckt PCH D G S B W=1 L=1 M=1
MP1 D G S B P1 W={W} L={L} M={M} AS={3*L*W} AD={3*L*W} PS={6*L+W} AS={6*L+W}
.ends

***********************************

*** CMOS 555 circuit ******************
.subckt CMOS555 GND0 Trigger Output Reset FM Threshold Discharge Vcc
XMN12 Net-_MN12-Pad1_ Net-_MN11-Pad1_ GND0 GND0 NCH W=10u L=0.5u M=1
XMP9 Net-_MN11-Pad1_ Net-_MP9-Pad2_ Net-_MP10-Pad3_ Net-_MP10-Pad3_ PCH W=10u L=0.5u M=1
R1 Net-_MP18-Pad2_ Net-_MN14-Pad2_ 100k
R4 Net-_MP9-Pad2_ GND0 40k
XMN7 Net-_MN14-Pad2_ Net-_MN14-Pad2_ GND0 GND0 NCH W=5u L=5u M=1
XMN11 Net-_MN11-Pad1_ Net-_MN11-Pad1_ GND0 GND0 NCH W=10u L=0.5u M=1
XMP10 Net-_MN12-Pad1_ Trigger Net-_MP10-Pad3_ Net-_MP10-Pad3_ PCH W=10u L=0.5u M=1
XMN2 Net-_MN2-Pad1_ FM Net-_MN1-Pad3_ GND0 NCH W=10u L=0.5u M=1
XMP3 Net-_MN1-Pad1_ Net-_MN2-Pad1_ Vcc Vcc PCH W=10u L=0.5u M=1
XMN1 Net-_MN1-Pad1_ Threshold Net-_MN1-Pad3_ GND0 NCH W=10u L=0.5u M=1
XMP4 Net-_MN2-Pad1_ Net-_MN2-Pad1_ Vcc Vcc PCH W=10u L=0.5u M=1
XMP6 Net-_MP18-Pad2_ Net-_MP18-Pad2_ Vcc Vcc PCH W=10u L=5u M=1
XMP8 Net-_MP10-Pad3_ Net-_MP18-Pad2_ Vcc Vcc PCH W=10u L=5u M=1
R2 Vcc FM 40k
R3 FM Net-_MP9-Pad2_ 40k
XMN5 Net-_MN1-Pad3_ Net-_MN14-Pad2_ GND0 GND0 NCH W=5u L=5u M=1
XMP25 Output Net-_MN23-Pad1_ Vcc Vcc PCH W=20u L=0.5u M=10
XMP19 Net-_MN16-Pad1_ Net-_MP18-Pad2_ Vcc Vcc PCH W=10u L=5u M=1
XMP22 Net-_MN23-Pad1_ Net-_MN16-Pad1_ Vcc Vcc PCH W=4u L=0.5u M=1
XMN16 Net-_MN16-Pad1_ Net-_MN14-Pad1_ GND0 GND0 NCH W=5u L=5u M=1
XMN14 Net-_MN14-Pad1_ Net-_MN14-Pad2_ GND0 GND0 NCH W=5u L=5u M=1
XMN24 Discharge Net-_MN23-Pad1_ GND0 GND0 NCH W=100u L=0.5u M=1
XMN26 Output Net-_MN23-Pad1_ GND0 GND0 NCH W=20u L=0.5u M=5
XMN23 Net-_MN23-Pad1_ Net-_MN16-Pad1_ GND0 GND0 NCH W=10u L=0.5u M=1
XMP18 Net-_MN17-Pad1_ Net-_MP18-Pad2_ Vcc Vcc PCH W=10u L=5u M=1
XMP15 Net-_MN12-Pad1_ Reset Vcc Vcc PCH W=5u L=0.5u M=1
XMP13 Net-_MN14-Pad1_ Net-_MN1-Pad1_ Vcc Vcc PCH W=20u L=0.5u M=1
XMN17 Net-_MN17-Pad1_ Net-_MN12-Pad1_ GND0 GND0 NCH W=5u L=5u M=1
XMN21 Net-_MN16-Pad1_ Net-_MN17-Pad1_ GND0 GND0 NCH W=10u L=0.5u M=1
XMN20 Net-_MN17-Pad1_ Net-_MN16-Pad1_ GND0 GND0 NCH W=10u L=0.5u M=1
.ends
